US05116971
1.1. 2,6-Dimethyl-4H-3,1-benzoxazin-4-one
45.5 g (0.3 mol) of 5-Methylanthranilic acid are refluxed together with 130 g of acetic anhydride for 3 hours. After the solvent has been evaporated in vacuo, the residue is dissolved in 200 ml of dichloromethane, and the solution is filtered through silica gel. The concentrated filtrate is induced to crystallise with isopropyl ether.

reactant | 5-Methylanthranilic acid | 0.3 mol, 45.5 g | CC1=CC=C(C(C(=O)O)=C1)N | C8H9NO2
reactant | acetic anhydride | 130 g | C(C)(=O)OC(C)=O | C4H6O3
product | 2,6-Dimethyl-4H-3,1-benzoxazin-4-one | CC1=NC2=C(C(O1)=O)C=C(C=C2)C | C10H9NO2
